US07381833B2
Production of ethyl 2-fluoro-cyclopropane-1-carboxylate (3b)
Sodium borohydride (170 mg, 4.50 mmol) was added to and dissolved in N,N-dimethylacetamide (1.5 mL) at room temperature, followed by addition of an N,N-dimethylacetamide solution (1.0 mL) of ethyl 1-chloro-2-fluoro-cyclopropane-1-carboxylate (hereinafter the compound will be referred to as “compound (1b)”) (cis/trans=95/5) (500 mg, 3.00 mmol). Cobalt chloride hexahydrate (3.6 mg, 0.015 mmol) was added to the resultant solution at the same temperature. After completion of addition, the resultant mixture was stirred at 40° C. for one hour. After completion of reaction, the whole reaction mixture was diluted with an HPLC mobile phase to 50 mL, to thereby yield a solution containing 381.3 mg (yield: 96%) of the title compound. Yield was determined by means of high performance liquid chromatography (HPLC) (the same shall apply hereinafter).

reactant | Sodium borohydride | 4.50 mmol, 170 mg | [BH4-].[Na+]
reactant | ethyl 1-chloro-2-fluoro-cyclopropane-1-carboxylate | ClC1(C(C1)F)C(=O)OCC | C6H8ClFO2
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
catalyst | Cobalt chloride hexahydrate | 0.015 mmol, 3.6 mg | O.O.O.O.O.O.[Co](Cl)Cl
solvent | N,N-dimethylacetamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | ethyl 2-fluoro-cyclopropane-1-carboxylate | 381.3 mg, yield: 96% | FC1C(C1)C(=O)OCC | C6H9FO2
